Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Shellfish Derived / Cymbalta / 
gabapentin
 
Attending: ___.
 
Chief Complaint:
Abdominal Bloating
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M with PMHx of paraplegia / brain injury following GSW, 
h/o abdominal pseudoobstruction/dysmotility s/p TAC/end 
ileostomy ___ c/b abdominal wall abscess, DM2, GERD, who 
presented to the ED with subacute worsening abdominal 
distention. Per report, this has been worsening over the past 
month. He reports decreased ostomy output and associated 
abdominal bloating, LOA. He also has felt tired and "clammy" 
during this time and has been noted to be bradycardic per his 
report. He also reports associated SOB ___ his abdomen pushing 
up on his chest.

He also endorses worsening of his chronic symptoms during this 
time, most notably his neuropathy and the pain from his sacral 
decubitus. He also recent worsening of his upper extremity 
contractures, which he attributes to not getting his routine ___. 
He recent re-established care at ___ and discussed this at 
length with his PCP.

ED Course:
Initial VS: 97.9 52 120/56 16 99% RA Pain ___
Labs largely unremarkable.
Imaging: CT A/P with parastomal hernia, no other acute process 
noted.
Meds given:
___ 22:24 IV Dextrose 50% 25 gm
___ 00:48 IV Piperacillin-Tazobactam 4.5 g
___ 09:27 IV Morphine Sulfate 4 mg 
___ 14:22 IV Morphine Sulfate 4 mg 
VS prior to transfer: 97.6 79 112/58 16 95% RA Pain ___

He was seen by CRS, who reduced his hernia and felt that there 
were no acute surgical issues. He was admitted to medicine given 
mild bradycardia and persistent hypoglycemia in the ED.

ROS: As above. Denies headache, lightheadedness, dizziness, sore 
throat, sinus congestion, chest pain, heart palpitations, 
shortness of breath, cough, nausea, vomiting, urinary symptoms, 
muscle or joint pains. The remainder of the ROS was negative.
 
Past Medical History:
CONSTIPATION   
BRAIN INJURY   
SEASONAL ALLERGIES   
ARTHRITIS   
ASTHMA   
DIABETES, TYPE II   
GASTROESOPHAGEAL REFLUX   
PARAPLEGIC  
___ Total abdominal colectomy, end ileostomy, takedown of
colostomy, mobilization of splenic flexure, parastomal hernia
repair with mesh
Ileostomy taken down and converted to colostomy  
G-tube (No longer in place)  
IVC filter  
___ Rod placement 
 
Social History:
___
Family History:
Father with DM. Mother with thyroid CA.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS - 97.7PO 124 / 78L Lying 89 18 96 RA 
___ - 129
GEN - Alert, NAD
HEENT - NC/AT, MMM
NECK - Some limited ROM ___ contractures
CV - RRR, no m/r/g appreciated
RESP - CTA B on anterior auscultation, breathing comfortably
ABD - Ostomy present with parastomal hernia with brown liquid 
stool and some undigested material, abdomen somewhat firm, non 
distended, TTP to the left of the ostomy site in an area with 
several sutures poking through skin, BS present
EXT - non-pitting edema of the BLE's, BLE's diffusely TTP, L fem 
line in place
SKIN - No apparent rashes
NEURO - CN ___ grossly intact; pt with significantly limited 
mobility of all the extremities ___ paraplegia and associated 
contractures (lower extremities worse than upper extremities; 
somewhat better function of RUE compared to LUE
PSYCH - calm, appropriate

DISCHARGE PHYSICAL EXAM:
97.8 ___ 18 95RA
abdomen w ostomy w stomal hernia, brown liquid stool noted, 
abdomen firm but not distended, multiple scars
face appears symmetric, speaking full sentences, not confused, 
calm and cooperartive
clear breath sounds anteriorly

 
Pertinent Results:
ADMISSION LABS:
___ 08:07PM BLOOD WBC-6.9 RBC-4.28* Hgb-11.3* Hct-37.4* 
MCV-87 MCH-26.4 MCHC-30.2* RDW-14.9 RDWSD-47.9* Plt ___
___ 08:07PM BLOOD Neuts-56.8 ___ Monos-7.5 Eos-9.7* 
Baso-1.0 Im ___ AbsNeut-3.94 AbsLymp-1.71 AbsMono-0.52 
AbsEos-0.67* AbsBaso-0.07
___ 08:07PM BLOOD ___ PTT-32.8 ___
___ 08:07PM BLOOD Glucose-57* UreaN-22* Creat-0.8 Na-139 
K-3.8 Cl-105 HCO3-20* AnGap-18
___ 08:07PM BLOOD ALT-8 AST-14 AlkPhos-115 TotBili-0.4
___ 08:07PM BLOOD Lipase-31
___ 08:07PM BLOOD proBNP-52
___ 08:07PM BLOOD Albumin-4.0
___ 10:46PM BLOOD Lactate-0.9

URINE STUDIES:
___ 02:30AM URINE Color-Straw Appear-Clear Sp ___
___ 02:30AM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:30AM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

CT A/P - IMPRESSION:
1. No acute intra-abdominal or intrapelvic abnormalities.  
Limited evaluation
for acute infection or abscess is limited due to lack of 
intravenous contrast.
However, no free fluid or organized fluid collections in the 
abdomen or the
pelvis.
2. Parastomal Richter hernia in the right anterior abdominal 
wall.  No bowel
obstruction.

CXR - IMPRESSION: 
Stable left lower lobe atelectasis.  No new focus of 
consolidation.

B ___ - IMPRESSION: 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins, although the proximal left common femoral vein and right 
peroneal veins
were not visualized.
 
Brief Hospital Course:
___ y/o M with PMHx of paraplegia / brain injury following GSW, 
h/o abdominal pseudoobstruction/dysmotility s/p TAC/end 
ileostomy ___ c/b abdominal wall abscess, DM2, GERD, who 
presented to the ED with subacute worsening abdominal 
distention.

# ABDOMINAL DISTENTION: Per discussion with Dr. ___ 
knows this patient well, this is a chronic motility issue. The 
patient was tolerating clear liquids, his abdomen was not 
distended, and ostomy was putting out brown liquid. He was 
continued on his home laxative, and antidiarrheal agents were 
held but can be resumed on discharge if needed.

# PARASTOMAL HERNIA: Per report, it was reduced in the ED; 
however, it was protruding again on arrival to the floor. 
Colorectal surgery continued to follow, but felt that there was 
no indication for acute intervention given no evidence of 
obstruction.

# DM / HYPOGLYCEMIA: Suspect hypoglycemia related to poor PO 
intake recently. Actos was held. FSBS WNL on the floor.  Resumed 
actos on discharge.  

# BRADYCARDIA: Unclear if this is truly a new problem. No LH or 
dizziness. Pt was monitored on telemetry and actually had some 
fast heart rates in the setting of holding his beta blocker.  
Resumed bisoprolol on discharge 

# Paraplegia / Contractures: Pt with worsening contractures 
recently in the setting of not getting his outpatient ___ 
evaluated him here and recommended d/c to rehab.

# SACRAL WOUNDS: Wound care was consulted.

# ? COPD: continued home Advair, theophylline

# GERD: Lansoprazole on hold as nonformulary, substituted with 
pantoprazole.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID to affected 
areas 
2. Pregabalin 50 mg PO TID 
3. Diphenoxylate-Atropine 2 TAB PO Q8H:PRN diarrhea 
4. LOPERamide 8 mg PO TID:PRN high ostomy output 
5. HydrOXYzine 25 mg PO TID 
6. Diazepam ___ mg PO Q8H:PRN spasm 
7. bisoprolol fumarate 2.5 mg oral DAILY 
8. dimethicone-ZnOx-vit A-D-aloe ___ % topical DAILY 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Tizanidine 6 mg PO TID 
11. DiphenhydrAMINE 25 mg PO DAILY:PRN insomnia/anxiety 
12. Baclofen 30 mg PO TID 
13. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe 
14. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH DAILY 
15. Ibuprofen 800 mg PO Q12H:PRN Pain - Moderate 
16. dexlansoprazole 60 mg oral DAILY 
17. Theophylline ER 400 mg PO DAILY 
18. Pioglitazone 30 mg PO DAILY 
19. Hydrocerin 1 Appl TP DAILY 

 
Discharge Medications:
1.  Baclofen 30 mg PO TID  
2.  bisoprolol fumarate 2.5 mg oral DAILY  
3.  dexlansoprazole 60 mg oral DAILY  
4.  Diazepam ___ mg PO Q8H:PRN spasm  
5.  dimethicone-ZnOx-vit A-D-aloe ___ % topical DAILY  
6.  DiphenhydrAMINE 25 mg PO DAILY:PRN insomnia/anxiety  
7.  Diphenoxylate-Atropine 2 TAB PO Q8H:PRN diarrhea  
8.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH DAILY  
9.  Hydrocerin 1 Appl TP DAILY  
10.  HydrOXYzine 25 mg PO TID  
11.  Ibuprofen 800 mg PO Q12H:PRN Pain - Moderate  
12.  LOPERamide 8 mg PO TID:PRN high ostomy output  
13.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe  
14.  Pioglitazone 30 mg PO DAILY  
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16.  Pregabalin 50 mg PO TID  
17.  Theophylline ER 400 mg PO DAILY  
18.  Tizanidine 6 mg PO TID  
19.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID to 
affected areas  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Abdominal pain
Parastomal hernia
Hypoglycemia
Bradycardia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.
 
Discharge Instructions:
You presented with abdominal pain as well as a hernia next to 
your ileostomy. You had a CT scan which did not show any acute 
issues. You were seen by the colorectal surgery team, who did 
not recommend any surgical intervention at this time. Your 
antidiarrheal agents were held, and you were continued on your 
home laxative. You are now being discharged to a rehab facility 
to help improve your range of motion.
 
Followup Instructions:
___